US07816406B2
Ethyl 3-(4-methoxy-2-(methylthio)pyrimidin-5-yl)-3-oxopropanoate.
A solution of 4-methoxy-2-(methylthio)pyrimidine-5-carboxylic acid (10.92 g, 54.6 mmol) and oxalyl chloride (19.0 mL, 217.8 mmol) in toluene (100 mL) was heated at 100° C. for 1 h. The solvent was removed under reduced pressure and the crude acid chloride was used without purification in the next step. To a solution of MgCl2 (7.80 g, 81.9 mmol) and ethyl magnesium malonate (14.10 g, 82.6 mmol) in THF (100 mL) was added the above acid chloride in THF (100 mL) at 0° C. followed by TEA (15.0 mL, 107.6 mmol). The reaction mixture was stirred at 0° C. for 30 min and at rt for 2 h. EtOAc (200 mL) and H2O (100 mL) were added and stirred for additional 30 min. The layers were separated and the organic layer was washed with brine (100 mL), dried over Na2SO4, and concentrated. The crude was purified by flash chromatography (15% EtOAc/hexanes) to yield the desired compound as a white solid (7.73 g, 52%). MS (m/z): 271 (MH+). 1H NMR (CDCl3) δ: 12.65 (s, 1H×⅔), 8.85 (s, 1H×⅓), 8.84 (s, 1H×⅔), 6.03 (s, 1H×⅔), 4.26 (q, 2H×⅔), 4.19 (q, 2H×⅓), 4.10 (s, 3H×⅔), 4.09 (s, 3H×⅓), 3.92 (s, 2H×⅓), 2.60 (s, 3H×⅓), 2.59 (s, 3H×⅔), 1.34 (t, 3H×⅔), 1.26 (3H×⅓).

reactant | 4-methoxy-2-(methylthio)pyrimidine-5-carboxylic acid | 54.6 mmol, 10.92 g | COC1=NC(=NC=C1C(=O)O)SC | C7H8N2O3S
reactant | oxalyl chloride | 217.8 mmol, 19.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | MgCl2 | 81.9 mmol, 7.80 g | [Mg+2].[Cl-].[Cl-]
reactant | ethyl magnesium malonate | 82.6 mmol, 14.10 g | C(CC(=O)[O-])(=O)[O-].C(C)[Mg+2]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | H2O | 100 mL | O | H2O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | Ethyl 3-(4-methoxy-2-(methylthio)pyrimidin-5-yl)-3-oxopropanoate | 7.73 g, 52% | COC1=NC(=NC=C1C(CC(=O)OCC)=O)SC | C11H14N2O4S
